US08633173B2
N-[4-(1-ethyl-4-oxido-1,4-azaphosphinan-4-yl)phenyl]-8-[4-(methylsulfonyl)phenyl][1,2,4]triazolo[1,5-a]pyridin-2-amine was prepared from 2-Chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (133 mg, 0.434 mmol) and 4-(1-ethyl-4-oxido-1,4-azaphosphinan-4-yl)aniline hydrochloride (131.01 mg, 0.47689 mmol) in a manner analogous to Example 2d. Product isolated as an off-white solid (31.56 mg, 14%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.54 (d, J=8.3 Hz, 1H), 8.23 (d, J=8.0 Hz, 2H), 8.01 (d, J=8.0 Hz, 2H), 7.80-7.67 (m, 5H), 7.08 (t, J=13.6, 7.0 Hz, 1H), 3.13-2.90 (m, 7H), 2.61 (m, 2H), 2.27-2.02 (m, 4H), 1.13 (t, J=13.6, 6.4 Hz, 3H). MS=510 (MH)+.

reactant | 2-Chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.434 mmol, 133 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 4-(1-ethyl-4-oxido-1,4-azaphosphinan-4-yl)aniline hydrochloride | 0.47689 mmol, 131.01 mg | Cl.C(C)N1CCP(CC1)(=O)C1=CC=C(N)C=C1
product | N-[4-(1-ethyl-4-oxido-1,4-azaphosphinan-4-yl)phenyl]-8-[4-(methylsulfonyl)phenyl][1,2,4]triazolo[1,5-a]pyridin-2-amine | C(C)N1CCP(CC1)(=O)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C25H28N5O3PS
